US07906645B2
tert-Butyl 3-(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)pyrrolidine-1-carboxylate
N-(3,4-dichlorophenyl)piperazine-1-carboxamide (0.548 g, 2 mmols) and 1-N—BOC-3-pyrrolidinone (370 mg, 2 mmols) were stirred at room temperature in dichloromethane (20 ml) for approximately 15 minutes. Added to this mixture was sodium triacetoxyborohydride (1.06 g, 5 mmols) and the reaction stirred overnight at room temperature. Saturated sodium bicarbonate solution (5 ml) was added and the mixture stirred for 1 hour then poured onto a hydromatrix column and the product eluted with dichloromethane (100 ml). The crude product was subjected to chromatography on silica gel (50 g) using a gradient of 100% dichloromethane through to 10% methanolic ammonia in dichloromethane to give the title compound as a white solid (780 mg).

reactant | N-(3,4-dichlorophenyl)piperazine-1-carboxamide | 2 mmols, 0.548 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1 | C11H13Cl2N3O
reactant | 1-N—BOC-3-pyrrolidinone | 2 mmols, 370 mg | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | sodium triacetoxyborohydride | 5 mmols, 1.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)pyrrolidine-1-carboxylate | 780 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C1CN(CC1)C(=O)OC(C)(C)C | C20H28Cl2N4O3
